US05550149
α-(3,4-Dimethoxyphenyl)-1,3-dihydro-5-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile
To a solution of 0.11 g of imidazole in 6 mL of N,N-dimethylformamide, under argon, is added 0.036 g of 60% of sodium hydride in oil. After stirring for 40 minutes, a solution of 0.3 g of 5-(2-chloroethoxy)-α-(3,4-dimethoxyphenyl)-1,3-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile in 8 mL of toluene is added followed by 0.3 g of sodium iodide. The resulting solution is heated at 75° C. for 21 hours. The solution is cooled and and poured into water. The solution is extracted with ethyl acetate land the organic layer washed with brine and dried over sodium sulfate. The solvent is removed at reduce pressure and the residual oil purified via column chromatography using a gradient elution from 4% methyl alcohol in methylene chloride to 9% methyl alcohol in methylene chloride. This affords 0,196 g of the desired product as a beige oil.

reactant | imidazole | 0.11 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.036 g | [H-].[Na+]
reactant | 5-(2-chloroethoxy)-α-(3,4-dimethoxyphenyl)-1,3-dihydro-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile | 0.3 g | ClCCOC=1C=C2CN(CC2=CC1OC)CCCCCC(C#N)(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C33H39ClN2O4S
reactant | sodium iodide | 0.3 g | [I-].[Na+]
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | α-(3,4-Dimethoxyphenyl)-1,3-dihydro-5-[2-(1H-imidazol-1-yl)ethoxy]-6-methoxy-α-[(4-methylphenyl)thio]-2H-isoindole-2-heptanenitrile | COC=1C=C(C=CC1OC)C(C#N)(CCCCCN1CC2=CC(=C(C=C2C1)OCCN1C=NC=C1)OC)SC1=CC=C(C=C1)C | C36H42N4O4S
